US09278910B2
To a stirring solution of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)benzoic acid INT-37 (150 mg, 0.25 mmol) in dioxane (4 mL) were added N-methylmorpholine (60.0 μl, 0.55 mmol) and isobutyl chloroformate (34.0 μl, 0.26 mmol). After stirring at room temperature for 1 h, the reaction mixture was added drop wise to a stirring solution of N′-hydroxy-4′-methyl-[1,1′-biphenyl]-4-carboximidamide INT-40 (62.0 mg, 0.275 mmol) in dioxane (2 mL) and DMF (2 mL). The reaction mixture was allowed to stir at room temperature for 1 h, then heated to 90° C. for 2 h, and then heated to 120° C. for 16 h. The reaction mixture was allowed to cool to room temperature then poured into NaHCO3 (20 mL) and extracted with DCM (3×20 mL). The combined organic extracts were dried over MgSO4 and concentrated. The crude product was purified by column chromatography (EA/isohexanes) to yield 77 mg (35%) of tert-butyl 2-(4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate INT-41. LCMS-ESI (m/z) calculated for C45H41F3N4O6: 791; no m/z observed, tR=3.26 min (Method 10). 1H NMR (400 MHz, DMSO) δ 10.34 (s, 1H), 8.35-8.04 (m, 4H), 8.04-7.80 (m, 2H), 7.80-7.28 (m, 11H), 7.28-7.08 (m, 2H), 4.80 (s, 1H), 4.70 (s, 1H), 4.00 (s, 2H), 3.92-3.79 (m, 5H), 2.40 (s, 3H), 1.47 (s, 4.5H), 1.33 (s, 4.5H).

reactant | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)benzoic acid | C(C)(C)(C)OC(CN(C(C1=CC=C(C=C1)NC(CC1=C(C=C(C=C1)OC)C(F)(F)F)=O)=O)CC1=CC=C(C(=O)O)C=C1)=O | C31H31F3N2O7
reactant | N-methylmorpholine | 0.55 mmol, 60.0 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.26 mmol, 34.0 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N′-hydroxy-4′-methyl-[1,1′-biphenyl]-4-carboximidamide | ON=C(N)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14N2O
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)-N-(4-(3-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-5-yl)benzyl)benzamido)acetate | 77 mg, 35% | COC1=CC(=C(C=C1)CC(=O)NC1=CC=C(C(=O)N(CC2=CC=C(C=C2)C2=NC(=NO2)C2=CC=C(C=C2)C2=CC=C(C=C2)C)CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C45H41F3N4O6
